US05143920
4-Amino-3-methoxyphenol (21 g) and ethyl 2-butyryl-3-ethoxyacrylate (36 g) were heated together at 90°-110° for 30 minutes to afford ethyl 2-butyryl-3-(4-hydroxy-2-methoxyphenylamino)acrylate (46.1 g, 77%) as a brown solid, m.p. 140°-142°.

reactant | 4-Amino-3-methoxyphenol | 21 g | NC1=C(C=C(C=C1)O)OC | C7H9NO2
reactant | ethyl 2-butyryl-3-ethoxyacrylate | 36 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
product | ethyl 2-butyryl-3-(4-hydroxy-2-methoxyphenylamino)acrylate | 46.1 g, 77% | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=C(C=C1)O)OC | C16H21NO5
